US05451596
To a mixture of 2-triphenylmethylaminomethyl-1-hydroxymethylcyclopropane (0.338 g; 0.984 mmol) in 30 ml THF and 5 ml DMF is added sodium hydride (60%; 0.059 g; 1.48 mmol) followed by 4-(benzoxazol-2-yl)benzyl bromide (0.255 g; 0.886 mmol) and a pinch of potassium iodide. This is stirred overnight, quenched with water, concentrated in vacuo and flash chromatographed using hexane:ethyl-acetate; 7:1 to obtain trans-2-triphenylmethylaminomethyl-[4-(benzoxazol-2-yl)-benzyloxymethyl]cyclopropane as a pale yellow oil which is used directly in the next step.

reactant | 2-triphenylmethylaminomethyl-1-hydroxymethylcyclopropane | 0.984 mmol, 0.338 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)NCC1C(C1)CO | C24H25NO
reactant | sodium hydride | 1.48 mmol, 0.059 g | [H-].[Na+]
reactant | 4-(benzoxazol-2-yl)benzyl bromide | 0.886 mmol, 0.255 g | O1C(=NC2=C1C=CC=C2)C2=CC=C(CBr)C=C2 | C14H10BrNO
reactant | potassium iodide | [I-].[K+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | trans-2-triphenylmethylaminomethyl-[4-(benzoxazol-2-yl)-benzyloxymethyl]cyclopropane | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)NC[C@H]1[C@@H](C1)COCC1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2 | C38H34N2O2
